US06127354
At 0° C., a solution of ethyl 2-(2-((N-methylcarbamoyl)methyl)phenoxy)acetate (5.00 g, 19.9 mmol) in tetrahydrofuran (75 ml) was added dropwise to a suspension of sodium borohydride (2.26 g, 59.7 mmol) in tetrahydrofuran (75 ml). A solution of iodine (5.05 g, 19.9 mmol) in tetrahydrofuran (150 ml) was added dropwise. The solution was warmed to room temperature and heated to reflux for 16 h. It was cooled to 0° C. Methanol (150 ml) was added dropwise. The solvent was removed in vacuo. The solid residue was dissolved in 20% aqueous sodium hydroxide solution/tert-butyl methyl ether (150 ml/150 ml). The phases were separated. The aqueous phase was extracted with tert-butyl methyl ether (3×150 ml). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (80 g), using dichloromethane/methanol/10% aqueous ammonia (first: 100:10:1, then 70:30:3) as eluent, to give 1.124 g of 2-(2-(2-(Methylamino)ethyl)phenoxy)ethanol.

reactant | ethyl 2-(2-((N-methylcarbamoyl)methyl)phenoxy)acetate | 19.9 mmol, 5.00 g | CNC(=O)CC1=C(OCC(=O)OCC)C=CC=C1 | C13H17NO4
reactant | sodium borohydride | 59.7 mmol, 2.26 g | [BH4-].[Na+]
reactant | iodine | 19.9 mmol, 5.05 g | II | I2
reactant | Methanol | 150 ml | CO | CH4O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(2-(2-(Methylamino)ethyl)phenoxy)ethanol | 1.124 g | CNCCC1=C(OCCO)C=CC=C1 | C11H17NO2
